US07179823B1
Sodium hydride (60%, oily, 1.80 g) was added to a solution of 5-methyl-2-phenyl-4-oxazolylmethanol (8.51 g) in tetrahydrofuran (100 ml) at 0° C., which was stirred at room temperature for 15 minutes. A solution of methyl 6-chloro-2-pyridinecarboxylate (7.72 g) in tetrahydrofuran (75 ml) was added to the mixture. After being stirred at 40° C. for 5 hours, the reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated to obtain methyl 6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-2-pyridinecarboxylate (7.41 g, yield 51%) as yellow crystals. This was recrystallized from ethyl acetate-hexane. Melting point: 97–98° C.

reactant | Sodium hydride | 1.80 g | [H-].[Na+]
reactant | 5-methyl-2-phenyl-4-oxazolylmethanol | 8.51 g | CC1=C(N=C(O1)C1=CC=CC=C1)CO | C11H11NO2
reactant | methyl 6-chloro-2-pyridinecarboxylate | 7.72 g | ClC1=CC=CC(=N1)C(=O)OC | C7H6ClNO2
reactant | water | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | methyl 6-(5-methyl-2-phenyl-4-oxazolylmethoxy)-2-pyridinecarboxylate | 7.41 g, yield 51% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=CC(=N1)C(=O)OC | C18H16N2O4
